US07601870B2
1v N-(2-Amino-4-bromo-6-methyl-phenyl)-3,3-dimethyl-butyramide
Zinc dust (16 g) was added in portions over 2 hours to N-(4-bromo-2-methyl-6-nitro-phenyl)-3,3-dimethyl-butyramide (2.74 g) in tetrahydrofuran (50 mL) and acetic acid (12 mL) cooled to 0° C., and then stirred 30 minutes at 25° C. The reaction mixture was poured into a suspension of sodium carbonate (16 g) in tetrahydrofuran and filtered through silica (50 g), which was washed with ethyl acetate (100 mL). The organic phase was concentrated in vacuo to furnish 2.47 g (100% yield) of the title compound as a pale red solid. LC-MS (m/z) 300 (MH+); tR=2.54, (UV, ELSD) 96%, 99%. 1H NMR (500 MHz, DMSO-d6): 1.04 (s, 9H), 2.05 (s, 3H), 2.21 (s, 2H), 4.94 (s, 2H), 6.59 (d, 1H), 6.74 (d, 1H), 8.85 (s, 1H).

reactant | N-(4-bromo-2-methyl-6-nitro-phenyl)-3,3-dimethyl-butyramide | 2.74 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])NC(CC(C)(C)C)=O)C | C13H17BrN2O3
reactant | sodium carbonate | 16 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 16 g | [Zn] | Zn
product | N-(2-Amino-4-bromo-6-methyl-phenyl)-3,3-dimethyl-butyramide | 2.47 g, 100% yield | NC1=C(C(=CC(=C1)Br)C)NC(CC(C)(C)C)=O | C13H19BrN2O
